US07405231B2
iv) 1-[4-(4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
A mixture of 0.11 g (0.49 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol and 0.10 g (0.30 mmol) cesium carbonate in 10 ml butanone was stirred at 60° C. for 30 min, then 0.15 g (0.49 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazole and 0.08 g (0.49 mmol) potassium iodide were added and stirring at 60° C. continued for 3 days. After evaporation, 15 ml water was added and the mixture extracted with two portions of 15 ml ethyl acetate. The combined organic layers were washed with 1N sodium hydroxide and water, dried over sodium sulfate and evaporated to give, after purification on silica (ethyl acetate/heptane 1:1, then ethyl acetate) 90 mg (34%) 1-[4-(4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole as white crystals melting at 118-119° C.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.49 mmol, 0.11 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | cesium carbonate | 0.30 mmol, 0.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazole | 0.49 mmol, 0.15 g | ClCC=1N=C(SC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NOS2
reactant | potassium iodide | 0.49 mmol, 0.08 g | [I-].[K+]
solvent | butanone | 10 ml | CC(CC)=O | C4H8O
product | 1-[4-(4-{2-[(E)-2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-thiazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1SC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O2S2
